US05292740
80 mg of 2-[(5-phenethyl-6-p-toluenesulphonamido-4-pyrimidinyl)oxy]ethyl acetate in 5 ml of methanol were stirred with 53 mg of finely powdered potassium carbonate at 20° C. for 15 hours. Thereafter, the methanol was removed under reduced pressure, the residue was taken up in ethyl acetate, the organic phase was washed with water and saturated sodium chloride solution, dried and evaporated. The residue was chromatographed over silica gel with methylene chloride/ethyl acetate(1:1) and ethyl acetate. There were obtained 40 mg of N-[6-(2-hydroxyethoxy)-5-phenethyl-4-pyrimidinyl]-p-toluenesulfonamide as a white resin.

reactant | 2-[(5-phenethyl-6-p-toluenesulphonamido-4-pyrimidinyl)oxy]ethyl acetate | 80 mg | C(C)(=O)OCCOC1=NC=NC(=C1CCC1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C23H25N3O5S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 ml | CO | CH4O
product | N-[6-(2-hydroxyethoxy)-5-phenethyl-4-pyrimidinyl]-p-toluenesulfonamide | 40 mg | OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C)CCC1=CC=CC=C1 | C21H23N3O4S
